US03978045
A 3.2 gram amount of NG -nitro-N2 -(tert-butyloxycarbonyl)-L-arginine was dissolved in a mixture of 40 ml of dry tetrahydrofuran and 1.4 ml of triethylamine. To the solution was added 1.4 ml of isobutyl chloroformate with stirring and cooling in an ice-salt bath. After additional stirring for 15 minutes, 0.87 gram of N-methyl-n-butylamine was added to the mixture. Then the reaction mixture was stirred continuously for 40 minutes at room temperature. The solvent was removed by distillation under reduced pressure, below 40°C. The residue was extracted with 100 ml of ethyl acetate and the extract was washed successively with a 10% aqueous citric acid solution, saturated sodium chloride solution, saturated aqueous sodium bicarbonate solution, and finally with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated to give NG -nitro-N2 -(tert-butyloxy-carbonyl)-N-(n-butyl)-N-methyl-L-argininamide. This material was added to ethyl acetate containing 10% dry HCl and allowed to stand for 2 hours, and NG -nitro-N-(n-butyl)-N-methyl-L-argininamide hydrochloride was precipitated.

reactant | nitro-N2 -(tert-butyloxycarbonyl)-L-arginine | [N+](=O)([O-])N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OC(C)(C)C | C11H21N5O6
reactant | isobutyl chloroformate | 1.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl-n-butylamine | 0.87 gram | CNCCCC | C5H13N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | nitro-N2 -(tert-butyloxy-carbonyl)-N-(n-butyl)-N-methyl-L-argininamide | [N+](=O)([O-])N([C@@H](CCCNC(N)=N)C(=O)N(C)CCCC)C(=O)OC(C)(C)C | C16H32N6O5
